US05756743
1,4-Dihydro-4-methylspiro[cyclopent[b]indole-3(2H),4'-piperidine] hydrochloride
A solution of 8-azaspiro[4,5]decane-1-one hydrochloride (5.2 g) in 95% ethanolic hydrochloric acid (30 ml) and 1-methyl-1-phenylhydrazine (5 g) was heated overnight on a steam bath, under nitrogen. The reaction mixture was cooled to ambient temperature, methanol was added and the mixture was concentrated in vacuo. The residue was flash chromatographed (silica gel) eluting with 10% methanol/dichloromethane. The appropriate fractions were collected and concentrated to afford 7.4 g (95%) of product, mp>270° C.

reactant | 8-azaspiro[4,5]decane-1-one hydrochloride | 5.2 g | Cl.C1(CCCC12CCNCC2)=O
reactant | 1-methyl-1-phenylhydrazine | 5 g | CN(N)C1=CC=CC=C1 | C7H10N2
reactant | methanol | CO | CH4O
solvent | hydrochloric acid | 30 ml | Cl | ClH
product | 1,4-Dihydro-4-methylspiro[cyclopent[b]indole-3(2H),4'-piperidine] hydrochloride | 7.4 g, 95% | Cl.CN1C2=C(C=3C=CC=CC13)CCC21CCNCC1 | InChI=1S/C16H20N2.ClH/c1-18-14-5-3-2-4-12(14)13-6-7-16(15(13)18)8-10-17-11-9-16;/h2-5,17H,6-11H2,1H3;1H
